US04737497
1,2-Bis[4-(N-methylpiperazinomethyl)-3,5-dioxopiperazin-1-yl]-ethane
A mixture of N-methylpiperazine (2.21 ml, 20 m mole), DMF (25 ml), chloroform (6 ml) and 1,2-bis(3,5-dioxopiperazin-1-yl)-ethane (2.54 g, 10 m mole) was stirred at 70° C. for ten minutes. The mixture was treated with 37% aqueous formaldehyde solution (1.62 ml) and was stirred at the same temperature for further 2 hours. Then, the same procedure as in Example 3 was made to give the titled compound (3.3 g; yield 68%).

reactant | N-methylpiperazine | 2.21 ml | CN1CCNCC1 | C5H12N2
reactant | DMF | 25 ml | CN(C)C=O | C3H7NO
reactant | 1,2-bis(3,5-dioxopiperazin-1-yl)-ethane | 2.54 g | O=C1CN(CC(N1)=O)CCN1CC(NC(C1)=O)=O | C10H14N4O4
reactant | formaldehyde | 1.62 ml | C=O | CH2O
solvent | chloroform | 6 ml | C(Cl)(Cl)Cl | CHCl3
product | 1,2-Bis[4-(N-methylpiperazinomethyl)-3,5-dioxopiperazin-1-yl]-ethane | 3.3 g, yield 68% | CN1CCN(CC1)CN1C(CN(CC1=O)CCN1CC(N(C(C1)=O)CN1CCN(CC1)C)=O)=O | C22H38N8O4
